US05856274
Lithium hydroxide monohydrate (1.26 g) was added to a solution of methyl mercaptan (0.72 g) in dimethyl formamide. To this mixture was added 4-chloro-3-fluoro-2-(methylsulphonyl)benzoic acid (3.7 g). The mixture was stirred for 2 hours then poured into water and acidified to pH1. It was extracted with ether, washed with water, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with n-hexane and filtered to give 4-chloro-3-(methylsulphenyl)-2-(methylsulphonyl)benzoic acid (2.26 g) as a white solid, NMR (CDCl3) 2.5(s,3H), 3.45(s,3H), 7.5(d,1H), 7.7(d,1H).

reactant | Lithium hydroxide monohydrate | 1.26 g | O.[OH-].[Li+]
reactant | methyl mercaptan | 0.72 g | CS | CH4S
reactant | 4-chloro-3-fluoro-2-(methylsulphonyl)benzoic acid | 3.7 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)F | C8H6ClFO4S
reactant | water | O | H2O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 4-chloro-3-(methylsulphenyl)-2-(methylsulphonyl)benzoic acid | 2.26 g | ClC1=C(C(=C(C(=O)O)C=C1)S(=O)(=O)C)SC | C9H9ClO4S2
